US08871756B2
Diethyl (2-chloro-6-methylquinolin-4-yl)propanedioate
To a solution of 2,4-dichloro-6-methylquinoline (2.11 g, 10 mmol) and 1,3-diethyl propanedioate (2.64 g, 20 mmol) in N,N-dimethylformamide (40 mL) was added anhydrous potassium carbonate (2.8 g, 20 mmol). The mixture was stirred at 70° C. for 3 hours, then poured into ice/water (100 mL) and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine (150 mL×2), dried over sodium sulfate. The residue was purified by flash column chromatography on silica gel (eluting with 20-30% ethyl acetate in petroleum ether) to afford 1.34 g of the desired product (yield was 40%). MS obsd. (ESI+) [(M+H)+] 336.

reactant | 2,4-dichloro-6-methylquinoline | 10 mmol, 2.11 g | ClC1=NC2=CC=C(C=C2C(=C1)Cl)C | C10H7Cl2N
reactant | 1,3-diethyl propanedioate | 20 mmol, 2.64 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | Diethyl (2-chloro-6-methylquinolin-4-yl)propanedioate | 1.34 g, yield was 40% | ClC1=NC2=CC=C(C=C2C(=C1)C(C(=O)OCC)C(=O)OCC)C | C17H18ClNO4
